US07592358B2
16.1f 3-bromo-5-(4-chlorophenyl)-2-ethynylpyridine
The product was prepared analogously to Example 7.1d starting from 3-bromo-5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridine. Yield: 0.44 g (55% of theoretical); C13H7BrClN (M=292.558); calc.: molpeak (M+H)+: 292/294/296 (BrCl); found: molpeak (M+H)+: 292/294/296 (BrCl); HPLC-MS: 6.21 minutes (method B).

reactant | 3-bromo-5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridine | BrC=1C(=NC=C(C1)C1=CC=C(C=C1)Cl)C#C[Si](C)(C)C | C16H15BrClNSi
reactant | BrCl | BrCl | BrCl
product | 3-bromo-5-(4-chlorophenyl)-2-ethynylpyridine | BrC=1C(=NC=C(C1)C1=CC=C(C=C1)Cl)C#C | C13H7BrClN
